US07754722B2
Part 1: Synthesis of Piperazine-1,3(R)-dicarboxylic acid-1-(9H-fluoren-9-ylmethyl)ester (Compound 2 in above Scheme 2)
Piperazine-2(R)-carboxylic acid dihydrochloride (5.95 g) was added to 50 mL dioxane/water (1:1). The solution was cooled in an ice bath and aqueous sodium hydroxide (10% w/v) solution was added drop-wise to adjust the pH to 9˜10. At this pH, piperazine-2-carboxylic acid dissolved completely. Then, Fmoc Chloride (2.46 g) in dioxane was added drop-wise to the ice-cooled solution of piperazine and the reaction mixture was stirred from 0° C. to RT over 5-6 hr. The mixture was poured into 800 ml of ice water and washed once with ether. Then the aqueous phase was acidified to pH 2-3 with 2N of HCl which precipitated a white solid. This solid was filtered and dried in vacuo to obtain 2.46 g of a white powder. MS (ESI pos.): 353 (M+H).

reactant | Piperazine-2(R)-carboxylic acid dihydrochloride | 5.95 g | Cl.Cl.N1[C@H](CNCC1)C(=O)O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | piperazine-2-carboxylic acid | N1C(CNCC1)C(=O)O | C5H10N2O2
reactant | Fmoc Chloride | 2.46 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)Cl | C15H11ClO2
reactant | piperazine | N1CCNCC1 | C4H10N2
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane water | 50 mL | O1CCOCC1.O
product | Piperazine-1,3(R)-dicarboxylic acid-1-(9H-fluoren-9-ylmethyl)ester | 2.46 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N1C[C@@H](NCC1)C(=O)O | C20H20N2O4
